US05587475
Preparation of 11-mercaptoundecanoic acid
4 g (15.09 mmol) 11-bromoundecanoic acid is added along with 1.505 g thiourea (19.82 mmol) and 15 ml water to a round botton flask, and the mixture is refluxed for 3 hours. 10.2 ml 3M sodium hydroxide (30.6 mmol) was then added and the mixture was refluxed for one additional hour. The reaction mixture was cooled in an ice bath, and dilute sulfuric acid was added dropwise until the solution had a pH of about 2. The cloudy solution was then extracted with ether (2×25 ml), dried over anhydrous MgSO4, and concentrated under reduced pressure to give a white solid (3.1 g, 94%). 1H-NMR (300 MHz, CDCl3) 1.28, m, 10 H; 1.60, m, 7 H; 2.35, t, 2 H, J=7.3 Hz; 2.50, q, 2 H, J =7.5 Hz.

reactant | 11-bromoundecanoic acid | 15.09 mmol, 4 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | thiourea | 19.82 mmol, 1.505 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 30.6 mmol, 3M, 10.2 ml | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 15 ml | O | H2O
product | 11-mercaptoundecanoic acid | 3.1 g, 94% | SCCCCCCCCCCC(=O)O | C11H22O2S
